Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___
 
Chief Complaint:
AMS, hypoxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ female with DDRT (in ___ on tacro and 
prednisone), HTN, CAD, who is presenting with altered mental 
status and hypoxia.

She has a number of complaints including acute on chronic 
diarrhea, she estimates ~6 loose BMs per day without blood, 
though this does not seem to be acutely changed. She also does 
endorse the recent onset of cough which is non productive. She 
denies fever, chills, nausea, vomiting or urinary symtpoms. She 
endorses chronic hip and shoulder pain but denies myalgia or URI 
symtpoms. She denies coughing after eating or drinking. She has 
no known sick contacts. She was found to be hypoxic by ___ to 
80's so was referred in to ED.  
 
Of note, patient was hospitalized from ___ for right 
groin/hip pain, with normal XR, thought to be due to chronic 
pain, as well as diarrhea which self-resolved. She was also 
hospitalized from ___ for pylenophritis, and during 
that admission she developed hypotension that was thought to be 
due to adrenal insufficiency. She was treated with stress dose 
steroids.  

In the Emergency Department:  
-Initial Vitals: 99.2 64 100/58 16 82% Nasal Cannula  
-Labs: 
   - VBG: 7.36/39
   - lactate 1.9
   - WBC 8.6 (88% PMNs)
   - Hb 10.3 (at baseline)
   - BUN 32/Cr 2.3 (from baseline ~1.1), AG: 16
   - proBNP: 2605. 
   - Flu swab: positive
Studies: 
   - CXR showed no PNA
   - Renal US: Normal renal transplant ultrasound. No 
hydronephrosis.
-Pt was given: Vancyoycin 1 g IV, Cefepime 2 g IV, Azithromycin 
500mg IV, 3L NS  
-Vitals on transfer: 98.2 97 96/55 19 99% Nasal Cannula 
 
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision hanges, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
 1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic 
reflux nephropathy, on prednisone and tacrolimus; baseline Cr 
1.0-1.2  
 2. Osteopenia ___ chronic steroid use.  
 3. Osteonecrosis of feet c/b osteomyelitis  
 4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
 5. Hyperlipidemia  
 6. GERD  
 7. s/p craniotomy for ICH (?intracranial aneurysm)  
 8. s/p foot surgeries  
 9. s/p cholecystecomy, s/p appendectomy  
 10. Hx of c.diff 2 and ___ yrs ago  
 11. Hx of MRSA osteo ___  
 12. Cataract surgery  
 ___. HTN  
 14. H/o DVT  
 15. Anemia  
 16. Panic disorder  
 17. Polyneuropathy in renal disease  
 18. Diastolic dysfunction  
 19. Hypothyroidism  
 20. Chronic low back pain  
 21. Hearing loss of both ears  
 22. Small intestinal adenoma with endoscopic resection c/b 
bowel  
 performation requiring ex-lap in ___  
 23. Recurrent colitis due to Clostridium difficile  
 24. recurrent UTI (lower urinary tract infection)  
 25. Acute interstitial nephritis ___ presumably from  
 ranitidine  

 
Social History:
___
Family History:
 Father died ___ CAD at age ___.  
 Mother died young of unknown causes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
 VS:  97.7 ___ 100% 3L NC
 General:  NAD, AAOx3, no acute distress
 HEENT:  atraumatic, normocephalic, EOMI
 Neck:  supple, no JVP
 CV:  tachycardic rate, sinus rhythm, normal S1S2
 Lungs:  CTAB, no w/r/r
 Abdomen:  +BS, soft, non-tender, non-distended
 GU:  foley in place
 Ext:  w/w/p, no edema
 Neuro:  no focal deficits
 Skin:  no rashes

DISCHARGE PHYSICAL EXAM 
VS: 98.7, 133/84, 114, 18, 94 RA
GEN: resting comfortably in bed, NAD, AAOx3, forgetful,
HEENT: moist mucus membranes, PERRL, no scleral icterus, 
Neck: supple
CV: RRR, no m/r/g
Pulmonary: coughing with inspiration, improved effort, rhonchi 
diffusely lung fields.
Abdomen: obese, +BS, soft, non distended, mild tenderess to deep 
palpation diffusely
Extremities: 2+ pitting edema, with evidence of chronic venous 
stasis changes, tender to palpation. 
Skin: bruising scattered upper and lower extremities 

 
Pertinent Results:
ADMISSION LABS:
================
___ 02:45PM BLOOD WBC-8.6# RBC-3.76* Hgb-10.3* Hct-35.7 
MCV-95 MCH-27.4 MCHC-28.9* RDW-18.3* RDWSD-63.2* Plt ___
___ 02:45PM BLOOD Neuts-88* Bands-0 Lymphs-8* Monos-4* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-7.57* 
AbsLymp-0.69* AbsMono-0.34 AbsEos-0.00* AbsBaso-0.00*
___ 02:45PM BLOOD ___ PTT-26.0 ___
___ 02:45PM BLOOD Glucose-94 UreaN-32* Creat-2.3*# Na-135 
K-4.6 Cl-99 HCO3-20* AnGap-21*
___ 02:45PM BLOOD proBNP-2605*
___ 02:45PM BLOOD Calcium-9.2 Phos-3.1 Mg-1.6
___ 03:27AM BLOOD tacroFK-5.5
___ 02:56PM BLOOD ___ pO2-52* pCO2-39 pH-7.36 
calTCO2-23 Base XS--2 Comment-GREEN TOP
___ 02:56PM BLOOD Lactate-1.9

DISCHARGE LABS:
===============
___ 06:30AM BLOOD WBC-6.6 RBC-3.53* Hgb-9.5* Hct-33.9* 
MCV-96 MCH-26.9 MCHC-28.0* RDW-17.8* RDWSD-62.5* Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:18AM BLOOD Glucose-68* UreaN-18 Creat-1.4* Na-145 
K-2.9* Cl-104 HCO3-28 AnGap-16
___ 06:18AM BLOOD Calcium-9.3 Phos-2.5* Mg-1.4*

PERTINENT LABS
===============
___ 02:45PM BLOOD proBNP-2605*
___ 03:45PM OTHER BODY FLUID FluAPCR-POSITIVE * 
FluBPCR-NEGATIVE

IMAGING:
========
___ CXR:
IMPRESSION:  
No acute intrathoracic process. 

___ Renal Transplant Ultrasound:
Normal renal transplant ultrasound.  No hydronephrosis. 

___ CXR:
Compared to chest radiographs since ___, most recently 
___. Mild cardiomegaly is stable.  There is no pulmonary edema. 
 Small region of opacification at the base of the left lung 
could be atelectasis.  There is a suggestion of a new 18 mm wide 
nodule at the right lung base, but both of these areas are 
poorly imaged on bedside radiographs.  Conventional radiographs 
are strongly recommended. 
Pleural effusion minimal if any.  No pneumothorax. 

MICRO: 
======
URINE CULTURE (Final ___: YEAST.    >100,000 
ORGANISMS/ML.. 
__________________________________________________________
C. difficile DNA amplification assay (Final ___: Positive 
for toxigenic C. difficile by the Illumigene DNA amplification.  
          
__________________________________________________________
MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
URINE CULTURE (Final ___:    <10,000 organisms/ml. 
__________________________________________________________
Blood Culture, Routine (Final ___:    NO GROWTH

 
Brief Hospital Course:
___ with DDRT in ___, HTN, CAD, presenting with altered mental 
status and hypoxia, found to be in severe sepsis and flu 
positive.

ACTIVE ISSUES 
=============

# Severe sepsis: Pt met SIRS criteria for RR, HR, and was 
hypotensive to ___ from a baseline in 110s on admission. 
Also with ___. She is on chronic steroids and likely has adrenal 
insufficiency. Patient also significantly volume down with 
concentrated H/H due to poor PO intake and diarrhea from Cdiff 
which is likely contributing to low BP and increased HR. She was 
initially empirically on vanc/cefepime but then it was 
discontinued as the patient was improved. She received stress 
dose steroids (3x home dose) for 3 days then back to home dose. 
She was treated with oseltamivir for flu. Fluid resuscitated.   

# Influenza: hypoxia resolved and she was saturating well on RA. 
She was treated with oseltamivir and completed a 5 day course. 
She was off this medication for >48 hours prior to discharge.  

# C diff: patient with diarrhea at home prior to presentation. 
Had received IV antibiotics during last admission a couple of 
weeks ago. She met criteria for severe C. diff. given elevated 
Cr, age. She is also immunosuppressed and has a history of prior 
C diff. She was started on PO Vancomycin for a 2 week course to 
finish on ___. 

# Hypoxemia: Resolved. Pt presented with cough, hypoxemia, and 
altered mental status. She is immunosuppressed. She is flu 
positive which could explain her hypoxia, or she could have a 
secondary bacterial pneumonia as well. A CXR did not show a 
clear pneumonia, however given her clinical presentation and 
hemodynamic instability she was covered initially with 
broad-spectrum antibiotics. She was given vancomycin, 
azithromycin, and cefepime in the ED. These were discontinued as 
there was no PNA and there were alternative reasons for his 
clinical picture. She completed a 5 day course of Oseltamivir 
and her hypoxia improved. She mobilized from the chair to the 
bed with ___ without decreased O2 below 94%. 
 
# ___ on CKD: Baseline Cr 1.3-1.5. Admission Cr 2.3. Ddx 
included pre-renal (esp in light of diarrhea), intrinsic renal, 
tacrolimus toxicity, rejection (though far removed from txp), 
GVHD. Renal transplant ultrasound showed normal resistive 
indices. She was volume resuscitated in the setting of her 
hypotension initially and then allowed to autodiuresis in the 
setting of urine sediment showing signs consistent with ATN. 
Tacrolimus was kept at 0.5mg with daily levels. Her Cr returned 
to baseline 1.4 on the day of discharge.   

# ESRD s/p DDRT (___). She was continued on Tacrolimus 0.5mg 
BID. Home prednisone was increased from 5mg to 15mg for 3 days 
in setting of hypotension and then returned to ___ by the time 
of discharge. PPx with acyclovir 200mg BID was continued, along 
with Calcitriol. 

CHRONIC ISSUES 
==============

# Diabetes: Last A1c 6.2 ___. Maintained on ISS while 
inpatient. 

# Chronic pain: Continued on home oxycodone 5 mg qhs:PRN

# CAD: s/p NSTEMI ___ (no stent). Continued rosuvastatin, 
aspirin, and restarted home metoprolol succinate at 25mg daily. 

# Hypothryoidism. Continued Levothyroxine Sodium 125 mcg PO 
DAILY  

# GERD. Held Omeprazole given that patient states she no longer 
takes this at home. 

TRANSITIONAL ISSUES 
===================
- Discharged on PO Vancomycin q6hrs to be taken until ___
- Immunosuppression/PPX: Tacrolimus 0.5mg BID, Prednisone 5mg 
daily, Acyclovir 200mg BID.
- Restarted Metoprolol succinate 25mg daily for CAD
- Held home PPI as patient states she does not take any longer 
- Check tacrolimus level, chem-10 panel, and CBC on ___ and 
fax to: Dr. ___, ___

 #CODE: DNR/DNI 
 #CONTACT: Patient, son ___ (___) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H 
2. Acyclovir 200 mg PO Q12H 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.5 mcg PO DAILY 
5. ClonazePAM 0.5 mg PO BID:PRN anxiety 
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. PredniSONE 5 mg PO DAILY 
9. Rosuvastatin Calcium 40 mg PO QPM 
10. Tacrolimus 0.5 mg PO Q12H 
11. diclofenac sodium 1 % TOPICAL QID 

 
Discharge Medications:
1. Acyclovir 200 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. Levothyroxine Sodium 125 mcg PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO QHS:PRN pain  
6. PredniSONE 5 mg PO DAILY 
7. Rosuvastatin Calcium 40 mg PO QPM 
8. Tacrolimus 0.5 mg PO Q12H 
9. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipatoin 
10. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
11. Senna 8.6 mg PO BID Constipation 
12. Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every 6 hours Disp 
#*45 Capsule Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Influenza 
C. diff 
Septic shock, resolved 
Acute kidney injury 
ESRD s/p DDRT
Diabetes 
Chronic pain 
Coronary Artery disease 
Hypothyroidism 
GERD
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you during your 
hospitalization. Briefly, you were hospitalized and found to 
have Influenza (the flu) and an infection in your stool (C. 
diff). These infectious made it difficult for you to breath and 
made your blood pressure low requiring you to stay in the ICU 
for several days. You were treated for both of these infections 
and you improved. You will continue taking the oral antibiotic 
Vancomycin every 6 hours at home until ___. It is very 
important that you complete this course of antibiotics. Please 
call your doctor with any questions. 

We wish you the best!

Your ___ Treatment Team 
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___